US04152435
3-hydrazino-5,6,7,8,9,10-hexahydro-4-methylcycloocta[c]-pyridazine.
1-hydrazinophthalazine derivatives, e.g., 1-hydrazinophthalazine, 1-[2-(1,3-dimethyl-2-butenylidene)-hydrazino]phthalazine, 1,4-dihydrazinophthalazine or 1-(N'-ethoxycarbonylhydrazino)phthalazine.

reactant | 1-hydrazinophthalazine | N(N)C1=NN=CC2=CC=CC=C12 | C8H8N4
reactant | 1-[2-(1,3-dimethyl-2-butenylidene)-hydrazino]phthalazine | CC(C=C(C)C)=NNC1=NN=CC2=CC=CC=C12 | C14H16N4
reactant | 1,4-dihydrazinophthalazine | N(N)C1=NN=C(C2=CC=CC=C12)NN | C8H10N6
reactant | 1-(N'-ethoxycarbonylhydrazino)phthalazine | C(C)OC(=O)NNC1=NN=CC2=CC=CC=C12 | C11H12N4O2
product | 3-hydrazino-5,6,7,8,9,10-hexahydro-4-methylcycloocta[c]-pyridazine | N(N)C1=C(C2=C(N=N1)CCCCCC2)C | C11H18N4
